US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}-N′-dodecanoylthiourea
Toluene (20 ml) and thionyl chloride (1 ml) were added to commercially available dodecanoic acid (80 mg), and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and dodecanoyl isothiocyanate was prepared using the resultant dodecanoyl chloride as a starting compound according to the description of the literature. Dodecanoyl isothiocyanate was dissolved in ethanol (1 ml) to prepare a solution. 4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline (50 mg), toluene (5 ml), and ethanol (1 ml) were added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (58 mg, yield 60%).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dodecanoic acid | 80 mg | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | dodecanoyl chloride | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | Dodecanoyl isothiocyanate | C(CCCCCCCCCCC)(=O)N=C=S | C13H23NOS
reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C17H16N2O3
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}-N′-dodecanoylthiourea | 58 mg, yield 60% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=S)NC(CCCCCCCCCCC)=O | C30H39N3O4S
